US07439237B2
(1f) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxyethyl 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1 carboxylate
A solution of 804 mg (33.5 mmol) lithium hydroxide dissolved in 80 ml of water was added dropwise to a mixture of 13.0 g (22.3 mmol) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d]-[1,3]diazepin-3-yl)-piperidine-1-carboxylate and 120 ml THF. The mixture was stirred for 3 hours at ambient temperature, freed from THF under reduced pressure, combined with 150 ml of water, and acidified by the addition of aqueous 4-molar hydrochloric acid solution. Then the aqueous phase was extracted with 300 ml of ethyl acetate, the organic phase was dried and evaporated down under reduced pressure. The residue was recrystallised from 50 ml isopropanol.

reactant | lithium hydroxide | 33.5 mmol, 804 mg | [OH-].[Li+]
reactant | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d]-[1,3]diazepin-3-yl)-piperidine-1-carboxylate | 22.3 mmol, 13.0 g | O=C1N(CCC2=C(N1)C=CC=C2)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C(=O)OCC | C27H30ClF3N4O5
reactant | THF | 120 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 4-molar | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxyethyl 4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1 carboxylate | O=C1N(CCC2=C(N1)C=CC=C2)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C(=O)O | C25H26ClF3N4O5
